* JSIM deck file generated with TimEx
* === DEVICE-UNDER-TEST ===
* Back-annotated simulation file written by InductEx v.6.0.4 on 8-4-21.
* Author: L. Schindler
* Version: 2.1
* Last modification date: 3 June 2021
* Last modification by: L. Schindler
* Copyright (c) 2018-2021 Lieze Schindler, Stellenbosch University
* Permission is hereby granted, free of charge, to any person obtaining a copy
* of this cell library and associated documentation files (the "Library"), to deal
* in the Library without restriction, including without limitation the rights
* to use, copy, modify, merge, publish, distribute, sublicense, and/or sell
* copies of the Library, and to permit persons to whom the Library is
* furnished to do so, subject to the following conditions:
* The above copyright notice and this permission notice shall be included in all
* copies or substantial portions of the Library.
* THE LIBRARY IS PROVIDED "AS IS", WITHOUT WARRANTY OF ANY KIND, EXPRESS OR
* IMPLIED, INCLUDING BUT NOT LIMITED TO THE WARRANTIES OF MERCHANTABILITY,
* FITNESS FOR A PARTICULAR PURPOSE AND NONINFRINGEMENT. IN NO EVENT SHALL THE
* AUTHORS OR COPYRIGHT HOLDERS BE LIABLE FOR ANY CLAIM, DAMAGES OR OTHER
* LIABILITY, WHETHER IN AN ACTION OF CONTRACT, TORT OR OTHERWISE, ARISING FROM,
* OUT OF OR IN CONNECTION WITH THE LIBRARY OR THE USE OR OTHER DEALINGS IN THE
* LIBRARY.
*For questions about the library, contact Lieze Schindler, lschindler@sun.ac.za
* The cell is not designed to be connected directly to passive transmission lines
*$Ports  a clk q
.subckt LSMITLL_NOT a clk q
.model jjmit jj(rtype=1, vg=2.8mV, cap=0.07pF, r0=160, rn=16, icrit=0.1mA)
.param Phi0=2.067833848E-15
.param B0=1
.param Ic0=0.0001
.param IcRs=100u*6.859904418
.param B0Rs=IcRs/Ic0*B0
.param Rsheet=2 
.param Lsheet=1.13e-12 
.param LP=0.2p
.param IC=2.5
.param LB=2p
.param BiasCoef=0.7
.param B1=IC
.param B2=2.57
.param B3=1.07
.param B4=IC
.param B5=1.34
.param B6=3.03
.param B7=1.38
.param B8=0.8
.param B9=IC
.param IB1=BiasCoef*Ic0*B1
.param IB2=87u
.param IB3=257u
.param IB4=BiasCoef*Ic0*B4
.param IB5=BiasCoef*Ic0*B9
.param LB1=LB
.param LB2=LB
.param LB3=LB
.param LB4=LB
.param LB5=LB
.param RB1=B0Rs/B1
.param RB2=B0Rs/B2
.param RB3=B0Rs/B3
.param RB4=B0Rs/B4
.param RB5=B0Rs/B5
.param RB6=B0Rs/B6
.param RB7=B0Rs/B7
.param RB8=B0Rs/B8
.param RB9=B0Rs/B9
.param LRB1=(RB1/Rsheet)*Lsheet
.param LRB2=(RB2/Rsheet)*Lsheet
.param LRB3=(RB3/Rsheet)*Lsheet
.param LRB4=(RB4/Rsheet)*Lsheet
.param LRB5=(RB5/Rsheet)*Lsheet
.param LRB6=(RB6/Rsheet)*Lsheet
.param LRB7=(RB7/Rsheet)*Lsheet
.param LRB8=(RB8/Rsheet)*Lsheet
.param LRB9=(RB9/Rsheet)*Lsheet
.param RD=4
.param LRD=2p
B1 1 2 jjmit area=B1
B2 4 5 jjmit area=B2
B3 7 8 jjmit area=B3
B4 13 14 jjmit area=B4
B5 17 18 jjmit area=B5
B6 10 11 jjmit area=B6
B7 20 18 jjmit area=B7
B8 18 19 jjmit area=B8
B9 21 22 jjmit area=B9
IB1 0 3 pwl(0 0 5p IB1)
IB2 0 6 pwl(0 0 5p IB2)
IB3 0 9 pwl(0 0 5p IB3)
IB4 0 15 pwl(0 0 5p IB4)
IB5 0 23 pwl(0 0 5p IB5)
LB1 3 1 LB1
LB2 6 4 LB2
LB3 8 9 LB3
LB4 13 15 LB4
LB5 21 23 LB5
L1 a 1 2.062E-12
L2 1 4 1.889E-12
L3 4 7 2.72E-12
L4 clk 13 2.057E-12
L5 13 16 1.029E-12
L6 16 17 1.241E-12
L7 16 12 1.973E-12
L8 10 12 1.003E-12
L9 10 8 7.524E-12
L10 8 20 1.234E-12
L11 18 21 2.607E-12
L12 21 q 2.062E-12
LP1 2 0 5.271E-13
LP2 5 0 5.237E-13
LP4 14 0 4.759E-13
LP6 11 0 5.021E-13
LP8 19 0 6.33E-13
LP9 22 0 4.749E-13
RB1 1 101 RB1
LRB1 101 0 LRB1
RB2 4 104 RB2
LRB2 104 5 LRB2
RB3 7 107 RB3
LRB3 107 8 LRB3
RB4 13 113 RB4
LRB4 113 0 LRB4
RB5 17 117 RB5
LRB5 117 18 LRB5
RB6 10 110 RB6
LRB6 110 0 LRB6
RB7 20 120 RB7
LRB7 120 18 LRB7
RB8 18 118 RB8
LRB8 118 0 LRB8
RB9 21 121 RB9
LRB9 121 0 LRB9
LRD 12 112 LRD
RD 112 0 RD
.ends
* === SOURCE DEFINITION ===
.SUBCKT SOURCECELL  8 11
b1   1  2  jjmitll100 area=2.25
b2   3  4  jjmitll100 area=2.25
b3   5  6  jjmitll100 area=2.5
ib1  0  2  pwl(0 0 5p 275ua)
ib2  0  5  pwl(0 0 5p 175ua)
l1   8  7  1p
l2   7  0  3.9p
l3   7  1  0.6p
l4   2  3  1.1p
l5   3  5  4.5p
l6   5  11 2p
lp2  4  0  0.2p
lp3  6  0  0.2p
lrb1 9  2  1p
lrb2 10 4  1p
lrb3 12 6  1p
rb1  1  9  4.31
rb2  3  10 4.31
rb3  5  12 3.88
.model jjmitll100 jj(rtype=1, vg=2.8mv, cap=0.07pf, r0=160, rn=16, icrit=0.1ma)
.ENDS SOURCECELL
* === INPUT LOAD DEFINITION ===
.SUBCKT LOADINCELL  a q
.model jjmit jj(rtype=1, vg=2.8mv, cap=0.07pf, r0=160, rn=16, icrit=0.1ma)
.param phi0=2.067833848e-15
.param b0=1
.param ic0=0.0001
.param icrs=100u*6.859904418
.param b0rs=icrs/ic0*b0
.param rsheet=2
.param lsheet=1.13e-12
.param lp=0.2p
.param ic=2.5
.param lptl=2p
.param lb=2p
.param biascoef=0.7
.param b1=ic
.param b2=ic
.param ib1=(b1+b2)*ic0*biascoef
.param lb1=lb
.param l1=phi0/(4*b1*ic0)
.param l2=phi0/(4*b1*ic0)
.param l3=phi0/(4*b1*ic0)
.param l4=phi0/(4*b2*ic0)
.param rb1=2.743962
.param rb2=2.743962
.param lrb1=1.750339e-12
.param lrb2=1.750339e-12
.param lp1=lp
.param lp2=lp
b1 1 2 jjmit area=b1
b2 6 7 jjmit area=b2
ib1 0 5 pwl(0 0 5p ib1)
l1 a 1 l1
l2 1 4 l2
l3 4 6 l3
l4 6 q l4
lp1 2 0 lp1
lp2 7 0 lp2
lb1 5 4 lb1
rb1 1 3 rb1
rb2 6 8 rb2
lrb1 3 0 lrb1
lrb2 8 0 lrb2
.ENDS LOADINCELL
* === OUTPUT LOAD DEFINITION ===
.SUBCKT LOADOUTCELL  a q
.model jjmit jj(rtype=1, vg=2.8mv, cap=0.07pf, r0=160, rn=16, icrit=0.1ma)
.param phi0=2.067833848e-15
.param b0=1
.param ic0=0.0001
.param icrs=100u*6.859904418
.param b0rs=icrs/ic0*b0
.param rsheet=2
.param lsheet=1.13e-12
.param lp=0.2p
.param ic=2.5
.param lptl=2p
.param lb=2p
.param biascoef=0.7
.param b1=ic
.param b2=ic
.param ib1=(b1+b2)*ic0*biascoef
.param lb1=lb
.param l1=phi0/(4*b1*ic0)
.param l2=phi0/(4*b1*ic0)
.param l3=phi0/(4*b1*ic0)
.param l4=phi0/(4*b2*ic0)
.param rb1=2.743962
.param rb2=2.743962
.param lrb1=1.750339e-12
.param lrb2=1.750339e-12
.param lp1=lp
.param lp2=lp
b1 1 2 jjmit area=b1
b2 6 7 jjmit area=b2
ib1 0 5 pwl(0 0 5p ib1)
l1 a 1 l1
l2 1 4 l2
l3 4 6 l3
l4 6 q l4
lp1 2 0 lp1
lp2 7 0 lp2
lb1 5 4 lb1
rb1 1 3 rb1
rb2 6 8 rb2
lrb1 3 0 lrb1
lrb2 8 0 lrb2
.ENDS LOADOUTCELL
* === SINK DEFINITION ===
.SUBCKT SINKCELL  1
r1 1 0 2
.ENDS SINKCELL
* ===== MAIN =====
I_a 0 1 pwl(0 0 150p 0 153p 600u 156p 0 250p 0 253p 600u 256p 0 280p 0 283p 600u 286p 0 540p 0 543p 600u 546p 0 600p 0 603p 600u 606p 0 640p 0 643p 600u 646p 0 780p 0 783p 600u 786p 0)
XSOURCEINa SOURCECELL 1 2
XLOADINa LOADINCELL 2 3
I_clk 0 4 pulse(0 600u 20p 2p 2p 1p 100p)
XSOURCEINclk SOURCECELL 4 5
XLOADINclk LOADINCELL 5 6
XLOADOUTq LOADOUTCELL 7 8
XSINKOUTq SINKCELL 8
XDUT lsmitll_not 3 6 7
.tran 0.025p 1000p 0
.print i(L1.XDUT) p(B1.XDUT) i(L4.XDUT) p(B4.XDUT) i(L12.XDUT) p(B9.XDUT)
.end
